US04287341
A. 2,6-Dichloro-4-amino-7,8-dimethoxyquinazoline (XIIb)
Ammonia was passed into a solution of 2,4,6-trichloro-7,8-dimethoxyquinazoline (31.4 g., 0.107 mole) in 650 ml. dry tetrahydrofuran for one hour at room temperature. After stirring for an additional hour, the suspension was concentrated in vacuo and filtered. The solid was resuspended in water, filtered, washed with water and methanol. Recrystallization from dimethylformamide/water yielded 23.7 g. (81%) of the desired product, M.P., 360° C.

reactant | Ammonia | N | H3N
reactant | 2,4,6-trichloro-7,8-dimethoxyquinazoline | 0.107 mole, 31.4 g | ClC1=NC2=C(C(=C(C=C2C(=N1)Cl)Cl)OC)OC | C10H7Cl3N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-Dichloro-4-amino-7,8-dimethoxyquinazoline | 81% | ClC1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | C10H9Cl2N3O2
